US07384967B2
N-(2-{-2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl)-methanesulfonamide
To 1-[4-(amino-ethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea (0.05 g, 0.13 mmol) in 10 mL DCM at 0° C. was added methanesulfonyl chloride (0.02 g, 0.13 mmol) followed by pyridine (0.02 g, 0.21 mmol). The reaction was stirred at ambient temperature overnight, concentrated and purified by flash chromatography on silica gel with 20–50% EtOAc/hexane to obtain the product as white solid in 75% yield.

reactant | 1-[4-(amino-ethyl)-thiazol-2-yl]-3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-urea | 0.13 mmol, 0.05 g | NCCC=1N=C(SC1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1 | C19H24N4O2S
reactant | methanesulfonyl chloride | 0.13 mmol, 0.02 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.21 mmol, 0.02 g | N1=CC=CC=C1 | C5H5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2-{-2-[3-(2-Cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-ethyl)-methanesulfonamide | 75% yield | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CCNS(=O)(=O)C)=O | C20H26N4O4S2
